US04874861
(Method B): In a mixture of 25 ml of ethanol and 25 ml of water was dissolved 4.7 g of potassium hydroxide and the 5.0 g (0.025 mol) of 2-tert.-butyl-5-chloro-4-methyl-3(2H)-pyridazinone was added thereto. The resulting mixture was stirred under reflux for 26 hours. After ethanol was distilled off, the reaction mixture was added with 100 ml of water and extracted with 100 ml of chloroform. The chloroform layer was washed with 100 ml of water, dried over anhydrous sodium sulfate and free of solvent by distillation to give 5.2 g of a crude product. The crude product was recrystallized from 30 ml of hexane to give 4.5 g of 2-tert.-butyl-5-ethoxy-4-methyl-3(2H)-pyridazinone.

reactant | potassium hydroxide | 4.7 g | [OH-].[K+]
reactant | 2-tert.-butyl-5-chloro-4-methyl-3(2H)-pyridazinone | 0.025 mol, 5.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)Cl | C9H13ClN2O
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 2-tert.-butyl-5-ethoxy-4-methyl-3(2H)-pyridazinone | 4.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)OCC | C11H18N2O2
